US08071584B2
3-(2,2-Dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-5-(5-formyl-3-thienyl)-1H-indole-7-carboxamide
(racemic)-5-Bromo-3-(2,2-dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide (170 mg, 0.426 mmol) was placed in a microwave vial and dissolved in 1,4-dioxane (10 mL) and water (5 mL). 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-thiophenecarbaldehyde (203 mg, 0.851 mmol) and K2CO3 (177 mg, 1.277 mmol) was added. Argon was bubbled through the mixture for 10 min. PdCl2(dppf) (16.43 mg, 0.034 mmol) was added, and argon was bubbled another 10 mins. The vial was sealed and put under microwave 5 mins at 100° C. with high absorption parameter. The mixture was run through a thiol-SPE column eluting with MeOH. The fraction containing product (lcms) are combined and solvent was evaporated. One fraction of the residue was purified by Preparative HPLC. Conditions: aqueous phase contains 0.1% NH4OH (Ammonium Gilson) starting with 20% acetonitrile to finish with 80% acetonitrile in 60 min. The product stays around 17-18 mins in the column. The title product (10 mg) was obtained. The other fraction was purified by FlashChromatography (DCM 100% to DCM 30%/-DCM 90/MeOH 7/NH4OH aq 3-70% in 30 mins) to give 90 mg of the title compound.

reactant | (racemic)-5-Bromo-3-(2,2-dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide | 0.426 mmol, 170 mg | BrC=1C=C2C(=CNC2=C(C1)C(=O)N)C1CC(S(CC1)(=O)=O)(C)C | C16H19BrN2O3S
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-thiophenecarbaldehyde | 0.851 mmol, 203 mg | CC1(OB(OC1(C)C)C=1C=C(SC1)C=O)C | C11H15BO3S
reactant | K2CO3 | 1.277 mmol, 177 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
catalyst | PdCl2(dppf) | 0.034 mmol, 16.43 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(2,2-Dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-5-(5-formyl-3-thienyl)-1H-indole-7-carboxamide | 10 mg | CC1(S(CCC(C1)C1=CNC2=C(C=C(C=C12)C1=CSC(=C1)C=O)C(=O)N)(=O)=O)C | C21H22N2O4S2
